US06395739B1
Production of 4′-methyl-3-chloropropiophenone
Aluminum chloride (480 g) was suspended in methylene chloride (1125 mL). Nitromethane (195 mL) was added dropwise to the suspension and the resulting mixture was stirred for one hour at room temperature. Subsequently, toluene (321 mL) was added dropwise thereto and the mixture was stirred for one hour at room temperature. Further, to the mixture was added dropwise 3-chloropropionylchloride (289 mL) at 10-15° C. and the resultant mixture was stirred for 2 hours at room temperature. After the reaction mixture was cooled in an ice bath, ice, then methylene chloride, water, and concentrated hydrochloric acid were added to the mixture with stirring. The layers were separated, and the organic layer was washed sequentially with 1N hydrochloric acid, saturated sodium bicarbonate, and saturated brine, and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from a solvent mixture of hexane and ethyl acetate, to thereby obtain 457.9 g of the target compound as white crystals. Melting point: 77.5-78.5° C.

reactant | Aluminum chloride | 480 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Nitromethane | 195 mL | [N+](=O)([O-])C | CH3NO2
reactant | 3-chloropropionylchloride | 289 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 321 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 1125 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4′-methyl-3-chloropropiophenone | 457.9 g | CC1=CC=C(C=C1)C(CCCl)=O | C10H11ClO
